US05462952
To a room temperature suspension of 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid hydrazide (355.1 mg, 1.15 mmoles) in 6 ml of ethanol is added 2 ml of triethyl orthoformate followed by p-toluenesulfonic acid (20 mg, 0.11 mmoles). After stirring at room temperature overnight, the clear yellow solution is concentrated in vacuo. The residue is subjected to flash chromatography eluting with hexane:ethyl acetate (3:1). Subsequent recrystallization from ethanol yields 244.1 mg (67%) of 2,6-dichloro-3-methyl-N-[2-(1,3,4-oxadiazol-2-yl)phenyl]benzenamine, mp 180°-181° C.

reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid hydrazide | 1.15 mmoles, 355.1 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)NN)C=CC=C1 | C14H13Cl2N3O
reactant | triethyl orthoformate | 2 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 0.11 mmoles, 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2,6-dichloro-3-methyl-N-[2-(1,3,4-oxadiazol-2-yl)phenyl]benzenamine | 244.1 mg, 67% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C=1OC=NN1 | C15H11Cl2N3O
